US08426408B2
(1S,2S,3R,4R)-3-({5-bromo-2-[(1,3-dimethyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1,3-dimethyl-1H-pyrazol-4-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4-dichloro-5-bromopyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (400 MHz, DMSO-d6) ppm 1.37-1.43 (m, 1H) 2.05-2.17 (m, 4H) 2.49-2.53 (m, 1H) 2.72 (s, 1H) 2.86 (s, 1H) 3.70 (s, 3H) 4.03-4.14 (m, 1H) 6.20 (dd, J=5.80, 3.05 Hz, 1H) 6.30 (dd, J=5.65, 2.90 Hz, 1H) 7.38 (d, J=7.93 Hz, 1H) 7.64 (s, 1H) 7.88 (s, 1H) 7.91 (s, 1H); MS (ESI(+)) m/e 418, 420 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4-dichloro-5-bromopyrimidine | ClC1=NC=C(C(=N1)Cl)Br | C4HBrCl2N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-({5-bromo-2-[(1,3-dimethyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | BrC=1C(=NC(=NC1)NC=1C(=NN(C1)C)C)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C17H20BrN7O
